US04024276
0.4 g of copper powder and 5.5 g (0.04 mole) of potassium carbonate were added to a solution of 5.5 g (0.02 mole) of dimethyl 4-bromoisophthalate and 4.5 g (0.02 mole) of 4-methylthio-2-(n-hexyl)-phenol in 40 ml of nitrobenzene and the mixture was heated under a nitrogen atmosphere at 140° for 3 hours and then was cooled. A solution of 3.2 g (0.08 mole) of sodium hydroxide in 60 ml of a 3-1 ethanol-water mixture was added thereto and the mixture was refluxed for 1 hour and then was poured into ice water. The mixture was extracted 3 times with dichloromethane and the aqueous phase was acidified with dilute hydrochloric acid and was filtered. The recovered solid was crystallized from methanol to obtain 5.8 of 4-[4'-methylthio-2'-(n-hexyl)-phenoxy]-isophthalic acid.

reactant | potassium carbonate | 0.04 mole, 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl 4-bromoisophthalate | 0.02 mole, 5.5 g | BrC1=C(C=C(C(=O)OC)C=C1)C(=O)OC | C10H9BrO4
reactant | 4-methylthio-2-(n-hexyl)-phenol | 0.02 mole, 4.5 g | CSC1=CC(=C(C=C1)O)CCCCCC | C13H20OS
reactant | sodium hydroxide | 0.08 mole, 3.2 g | [OH-].[Na+]
solvent | nitrobenzene | 40 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 0.4 g | [Cu] | Cu
solvent | ethanol water | C(C)O.O
product | 4-[4'-methylthio-2'-(n-hexyl)-phenoxy]-isophthalic acid | CSC1=CC(=C(OC2=C(C=C(C(=O)O)C=C2)C(=O)O)C=C1)CCCCCC | C21H24O5S
